US04929741
A solution of 2.8 ml (32 mmol) of methyl propiolate in 60 ml of tetrahydrofuran was treated at -78° under argon with 20 ml of n-butyllithium (1.6M in hexane). The mixture was stirred at -78° for 10 minutes and then a solution of 4.7 g (32 mmol) of 5-formylindane in 80 ml of tetrahydrofuran was added within 15 minutes. The reaction mixture was stirred at -78° for a further 10 minutes, then brought to room temperature and treated with 60 ml of saturated ammonium chloride solution. The aqeuous phase was extracted twice with ether. The combined organic phases were washed in succession with saturated sodium chloride solution and with water, dried over sodium sulphate and concentrated. The residue was purified by flash chromatography on 500 g of silica gel (elution agent methylene chloride/ethyl acetate 9:1). There was obtained methyl 4-hydroxy-4-(5-indanyl)-2-butynoate as a yellow oil.

reactant | methyl propiolate | 32 mmol, 2.8 ml | C(C#C)(=O)OC | C4H4O2
reactant | n-butyllithium | 1.6M, 20 ml | C(CCC)[Li]
reactant | 5-formylindane | 32 mmol, 4.7 g | C(=O)C=1C=C2CCCC2=CC1 | C10H10O
reactant | ammonium chloride | 60 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | methyl 4-hydroxy-4-(5-indanyl)-2-butynoate | OC(C#CC(=O)OC)C=1C=C2CCCC2=CC1 | C14H14O3
